US06106906
A 10 g of PA was dissolved into a 200 cm3 of chloroform and a 12.8 g of MDPA was slowly added thereto. Then, the solution was stirred for 2 hours at room temperature. After the completion of the reaction in the solution, the raw materials were removed by means of a silica gel column to obtain a 500 cm3 of PA-MDPA/chloroform solution. The solution was then condensed to 100 cm3 and washed with a 50 cm3 of water for three times. Then, it was dried with magnesium sulfate and, after drying, the chloroform was removed to produce a 16.4 g of PA-MDPA.

reactant | MDPA | 12.8 g | COP(=O)(CCC(=O)NCO)OC | C6H14NO5P
reactant | chloroform | 200 cm3 | C(Cl)(Cl)Cl | CHCl3
product | MDPA chloroform | COP(=O)(CCC(=O)NCO)OC.C(Cl)(Cl)Cl | InChI=1S/C6H14NO5P.CHCl3/c1-11-13(10,12-2)4-3-6(9)7-5-8;2-1(3)4/h8H,3-5H2,1-2H3,(H,7,9);1H
